US08114886B2
4-Methyl-5-[[[6-(trifluoromethyl)pyridin-3-yl]thio](2,3,6-trifluorophenyl) methyl]pyridine-2-carbaldehyde
To a solution of 2-bromo-4-methyl-5-[[[6-(trifluoromethyl)pyridin-3-yl]thio](2,3,6-trifluorophenyl)methyl]pyridine (4.76 g, 9.65 mmol) in toluene (100 ml), a hexane solution of n-butyllithium (1.58 M, 6.72 ml, 10.6 mmol) was added in an argon atmosphere at −78° C. The reaction mixture was stirred for 30 minutes at −40° C., and then cooled again to −78° C., and N,N-dimethylformamide (0.897 ml, 11.6 mmol) was added. After completion of dropwise addition, the reaction mixture was allowed to warm to 0° C., and saturated aqueous ammonium chloride was added thereto at the same temperature. Dichloromethane and water were added to the reaction mixture, and the organic layer was separated. Subsequently, the organic layer was dried over anhydrous sodium sulfate and filtered, and then the filtrate was concentrated under reduced pressure. The resulting residue was subjected to flash silica gel chromatography, and the fraction obtained from an elution with hexane:ethyl acetate=5:1 was concentrated under reduced pressure, to obtain the title compound (2.52 g, 5.70 mmol, 59%) as a yellow oily substance.

reactant | 2-bromo-4-methyl-5-[[[6-(trifluoromethyl)pyridin-3-yl]thio](2,3,6-trifluorophenyl)methyl]pyridine | 9.65 mmol, 4.76 g | BrC1=NC=C(C(=C1)C)C(C1=C(C(=CC=C1F)F)F)SC=1C=NC(=CC1)C(F)(F)F | C19H11BrF6N2S
reactant | n-butyllithium | 10.6 mmol, 1.58 M, 6.72 ml | C(CCC)[Li]
reactant | N,N-dimethylformamide | 11.6 mmol, 0.897 ml | CN(C=O)C | C3H7NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | Dichloromethane | ClCCl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | 4-Methyl-5-[[[6-(trifluoromethyl)pyridin-3-yl]thio](2,3,6-trifluorophenyl) methyl]pyridine-2-carbaldehyde | 5.70 mmol, 2.52 g, 59% | CC1=CC(=NC=C1C(C1=C(C(=CC=C1F)F)F)SC=1C=NC(=CC1)C(F)(F)F)C=O | C20H12F6N2OS
